US05519004
Boc-Gly-Gly-Ala-Pro-OBzl (30.0 g, 0.061 mole) was dissolved in glacial acetic acid (300 mL) and 3.0 g of 10% Palladium on activated charcoal was added. This mixture was hydrogenated at 40 psi for 6 h. The reaction mixture was faltered through celite and the solvent was removed in vacuum. The resulting residue was triturated with ether, filtered, washed with ether, and dried to obtain Boc-Gly-Gly-Ala-Pro-OH.

reactant | Boc-Gly-Gly-Ala-Pro-OBzl | 0.061 mole, 30.0 g | N(CC(=O)NCC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C24H34N4O7
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
catalyst | Palladium on activated charcoal | 3.0 g | [Pd] | Pd
product | Boc-Gly-Gly-Ala-Pro-OH | N(CC(=O)NCC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C17H28N4O7
